US04665188
The crude ethyl 6-(chloromethyl)-1,2,3,4-tetrahydro-2-naphthalenecarboxylate obtained in Referential Example 5 was dissolved in 100 ml of anhydrous acetonitrile and then 3.22 g of sodium iodide and 3.94 g of 1-acetylimidazole were added thereto. The resulting mixture was heated under reflux for 1.5 hours. The reaction mixture was concentrated in vacuo and 100 1 of mthanol as added to the residue. The mixture was stirred and concentrated in vacuo. Water was added to the residue. The mixture was neutralized by adding sodium bicarbonate and extracted with chloroform. The extract was washed with water, dried and then concentrated in vacuo. The residue was purified by silica gel column chromatography using a mixture of ethanol and chloroform (3:97 by volume) for elution to give an oily product. The product was suspended in ethanol, and an ethanolic solution of hydrogen chloride was added thereto. The mixture was concentrated to dryness in vacuo to give 4.8 g of ethyl 6-(1-imidazolylmethyl)-1,2,3,4-tetrahydro-2-naphthalenecarboxylate hydrochloride as colorless crystals with m.p. 170°-172 ° C.

reactant | ethyl 6-(chloromethyl)-1,2,3,4-tetrahydro-2-naphthalenecarboxylate | ClCC=1C=C2CCC(CC2=CC1)C(=O)OCC | C14H17ClO2
reactant | sodium iodide | 3.22 g | [I-].[Na+]
reactant | 1-acetylimidazole | 3.94 g | C(C)(=O)N1C=NC=C1 | C5H6N2O
reactant | hydrogen chloride | Cl | ClH
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
solvent | ethanol | C(C)O | C2H6O
product | ethyl 6-(1-imidazolylmethyl)-1,2,3,4-tetrahydro-2-naphthalenecarboxylate hydrochloride | 4.8 g | Cl.N1C(=NC=C1)CC=1C=C2CCC(CC2=CC1)C(=O)OCC | InChI=1S/C17H20N2O2.ClH/c1-2-21-17(20)15-6-5-13-9-12(3-4-14(13)11-15)10-16-18-7-8-19-16;/h3-4,7-9,15H,2,5-6,10-11H2,1H3,(H,18,19);1H
